US07592373B2
1.422.c. 3-[4-(1-tert-butoxycarbonylaminocyclopropyl)phenyl]propynoic acid-(4′-chlorobiphenyl-4-yl)amide
1.4 g (4.2 mmol) of cesium carbonate and 0.5 g (1.4 mmol) of tert-butyl [1-(4-iodophenyl)cyclopropyl]carbamate are placed in 20 mL of THF and cooled to −15° C. in the ice/methanol bath, rinsed with argon, and degassed. To this reaction mixture is added successively 160 mg (0.14 mmol) of tetrakistriphenylphosphine palladium and 30 mg (0.158 mmol) of copper (I) iodide and the mixture is again degassed. 0.5 g (1.4 mmol) of propynoic acid-(4′-chlorobiphenyl-4-yl)amide is finally added. The mixture is stirred for 24 hours at ambient temperature and the reaction mixture is then evaporated down. The residue is triturated with water and ethyl acetate, suction filtered, washed with ethyl acetate, and dried in the air. Yield: 0.4 g (59% of theory); C29H27ClN2O3 (M=486.99); calc.: molecular ion peak (M+H)+: 487/89 (Cl); found: molecular ion peak (M+H)+: 487/89 (Cl); Rf value: 0.62 (silica gel, cyclohexane/ethyl acetate (1:1)).

reactant | cesium carbonate | 4.2 mmol, 1.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl [1-(4-iodophenyl)cyclopropyl]carbamate | 1.4 mmol, 0.5 g | IC1=CC=C(C=C1)C1(CC1)NC(OC(C)(C)C)=O | C14H18INO2
reactant | propynoic acid-(4′-chlorobiphenyl-4-yl)amide | 1.4 mmol, 0.5 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(C#C)=O | C15H10ClNO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 0.158 mmol, 30 mg | [Cu]I
product | 3-[4-(1-tert-butoxycarbonylaminocyclopropyl)phenyl]propynoic acid-(4′-chlorobiphenyl-4-yl)amide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(C#CC1=CC=C(C=C1)C1(CC1)NC(=O)OC(C)(C)C)=O | C29H27ClN2O3
